US07943767B2
Methyl trans-4-(5-iodo-4-oxo-3,4-dihydroimidazo[5,1-f] [1,2,4]triazin-7-yl)cyclohexanecarboxylate
A solution of methyl ir ans-4-(2-amino-5-iodo-4-oxo-3,4-dihydroimidazo[5,1-f] [1,2,4]triazin-7-yl)cyclohexanecarboxylate (0.880 g, 0.00211 mol) in anhydrous THF (74 mL) and DMF (13.2 mL) was charged with tert-butyl nitrite (1.2 mL, 0.010 mol) and stirred at rt for 2 h. The reaction was concentrated in vacuo and was purified by chromatography over silica gel [eluting with 5% MeOH in CHCl3] resulting in 570 mg, (67% yield) of the title compound as a pale orange solid. (1H NMR (400 MHz, DMSO-d6) δ ppm 1.40-1.54 (m, 2H), 1.56-1.69 (m, 2H), 1.92-2.06 (m, 4H), 2.36-2.46 (m, 1H), 3.02-3.14 (m, 1H), 3.61 (s, 3H), 7.89 (d, J=3.28 Hz, 1 H) and 11.79 (br. s., 1H); MS (ES+): m/z 402.86 [MH+].

reactant | 4-(2-amino-5-iodo-4-oxo-3,4-dihydroimidazo[5,1-f] [1,2,4]triazin-7-yl)cyclohexanecarboxylate | 0.00211 mol, 0.880 g | NC1=NN2C(C(N1)=O)=C(N=C2C2CCC(CC2)C(=O)[O-])I
reactant | DMF | 13.2 mL | CN(C)C=O | C3H7NO
reactant | tert-butyl nitrite | 0.010 mol, 1.2 mL | N(=O)OC(C)(C)C | C4H9NO2
solvent | THF | 74 mL | C1CCOC1 | C4H8O
product | Methyl trans-4-(5-iodo-4-oxo-3,4-dihydroimidazo[5,1-f] [1,2,4]triazin-7-yl)cyclohexanecarboxylate | 67% yield | IC=1N=C(N2N=CNC(C21)=O)[C@@H]2CC[C@H](CC2)C(=O)OC | C13H15IN4O3
